### PR TITLE
Remove setReplyTCB and getReplyTCB

### PR DESCRIPTION
**Pull request by MitchellBuckley**
Because setReplyTCB is only called in 4 places, and it is just a wrapper for updateReply, having it as a separate definition means writing double the lemmas, or just unfolding the definition in many places. It is simpler just to remove the function altogether. This should streamline a few proofs and reduce duplicated work.

I have also done the same with getReplyTCB.

### CODE REVIEW

File: proof/refine/ARM/Finalise_R.thy [hunk 1]
```diff
@@ -3225,52 +3222,50 @@ lemma (in delete_one_conc_pre) finaliseCap_replaceable:
...
-    (* ThreadCap *)
-    apply (frule capAligned_capUntypedPtr [OF valid_capAligned], simp)
-    apply (clarsimp simp: valid_cap'_def)
-    apply (drule valid_globals_cte_wpD'[rotated], clarsimp)
-    apply (clarsimp simp: invs'_def valid_state'_def valid_pspace'_def)
-   (* ArchObjectCap *)
-   apply (clarsimp simp: obj_at'_def)
-  (* ReplyCap *)
-  apply clarsimp
+       (* ThreadCap *)
```
Comment (corlewis) [inline proof/refine/ARM/Finalise_R.thy:3260]: nitpick: I prefer the original indentation of this comment, where it matches the line after it

File: proof/refine/ARM/Finalise_R.thy [hunk 2]
```diff
@@ -3225,52 +3222,50 @@ lemma (in delete_one_conc_pre) finaliseCap_replaceable:
...
+     apply (frule capAligned_capUntypedPtr [OF valid_capAligned], simp)
+     apply (clarsimp simp: valid_cap'_def)
+     apply (drule valid_globals_cte_wpD'[rotated], clarsimp)
+     apply (fastforce simp: invs'_def valid_state'_def valid_pspace'_def)
+    apply fastforce
```
Comment (corlewis) [inline proof/refine/ARM/Finalise_R.thy:3265]: very minor nitpick: the indentation suggests that this `fastforce` is for a new case, and to match the previous style of this proof could use a comment saying which case that is.

File: proof/refine/ARM/Ipc_R.thy [hunk 3]
```diff
@@ -4203,7 +4265,7 @@ lemma replyPush_valid_queues:
    replyPush callerPtr calleePtr replyPtr canDonate
    \<lbrace>\<lambda>_. valid_queues\<rbrace>"
   by (rule monadic_rewrite_refine_valid[OF monadic_rewrite_replyPush, where P''=\<top>, simplified])
-     (wpsimp wp: weak_if_wp schedContextDonate_valid_queues hoare_drop_imps simp: getReplyTCB_def)
+     (wpsimp wp: weak_if_wp schedContextDonate_valid_queues hoare_drop_imps simp:)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4268]: nitpick: remove the `simp:`

**Review by corlewis — APPROVED** [review]
Nice! I think it would be possible to keep the terms as an abbreviation if we would want that, but otherwise this looks great to me!

I do have to admit that I didn't really look at the changes to the `replyPush` proofs, since they'll all change again with your other PR.

File: spec/haskell/src/SEL4/Object/Reply.lhs [hunk 4]
```diff
@@ -187,9 +187,3 @@ on the thread state of the replyTCB of the replyPtr
 
 > setReply :: PPtr Reply -> Reply -> Kernel ()
 > setReply rptr r = setObject rptr r
-
-> getReplyTCB :: PPtr Reply -> Kernel (Maybe (PPtr TCB))
-> getReplyTCB r = liftM replyTCB (getReply r)
-
-> setReplyTCB :: Maybe (PPtr TCB) -> PPtr Reply -> Kernel ()
-> setReplyTCB tptrOpt rptr = updateReply rptr (\reply -> reply { replyTCB = tptrOpt })
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/Reply.lhs:195]: What this makes me think is that there is not much point in defining `setReplyTCB` via `updateReply` to start with. It has an extra getting of the reply object that is just discarded.

[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/Reply.lhs:195]: Well, it seems that is not much of a point either. `setReplyTCB` was defined in that way originally. I can't decide if keeping abbreviation would be good or not.

[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/Reply.lhs:195]: Apologies for rambling. I think it is ok to proceed as in this PR, without abbreviations. There are only a few occurrences of this, and we don't have such things for `replyPrev` and `replyNext`, which we use more. What do you think, Mitch?

**Review by mktnk3 — APPROVED** [review]

File: spec/haskell/src/SEL4/Object/Reply.lhs (hunk 4 above)
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Object/Reply.lhs:195]: I think it's best to continue without abbreviations. The abbreviations are nice, but sometimes they hide useful information.

File: proof/refine/ARM/Reply_R.thy [hunk 5]
```diff
@@ -13,33 +13,25 @@ defs replyUnlink_assertion_def:
...
                           \<or> (\<exists>ep d. state = BlockedOnReceive ep d (Some replyPtr))"
 
-crunches setReplyTCB
-  for pred_tcb_at'[wp]: "\<lambda>s. P (pred_tcb_at' proj test t s)"
-  and tcb_at'[wp]: "\<lambda>s. P (tcb_at' t s)"
-  and ksReadyQueues[wp]: "\<lambda>s. P (ksReadyQueues s)"
-  and ksSchedulerAction[wp]: "\<lambda>s. P (ksSchedulerAction s)"
-  and valid_queues[wp]: "valid_queues"
-  and reply_at'[wp]: "\<lambda>s. P (reply_at' rp s)"
-
```
Comment (mktnk3) [inline proof/refine/ARM/Reply_R.thy:23]: This used to generate a bunch more of `updateReply` lemmas that are not included in the merged version below. My proof uses one of those and now I want to revive these crunches for `updateReply`. I am just wondering if other people might experience the same while rebasing.

Comment (MitchellBuckley) [reply proof/refine/ARM/Reply_R.thy:23]: Sure thing. Go for it! Just make a Pull Request?

Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:23]: Yes, the PR is up now :)
